US07786107B2
To a solution of 3,4-dihydrospiro[benzo[b]azepine-5,4′-piperidin]-2(1H)-one E (800 mg, 3.47 mmol) and cycloheptanone (1.12 g, 10 mmol) in 1,2-dichloroethane (25 ml) was added titanium tetraisopropoxide (2.5 ml, 8.8 mmol) and the resulting solution was stirred at 40° C. for 15 h, treated with sodium triacetoxyborohydride (2.12 g, 10 mmol) for 1 h, cooled to room temperature and MeOH (1 ml) was added and stirred for 1 h. After evaporation, the residue was dissolved in dichloromethane, washed with a mixture of brine and 6N NaOH (3 ml). The aqueous phase (suspension) was extracted with dichloromethane (3×). The extracts were dried over Na2SO4, concentrated and purified by silica gel chromatography (CH2Cl2/MeOH 9:1 to 8:2) to give 1′-cycloheptyl-3,4-dihydrospiro[benzo[b]azepine-5,4′-piperidin]-2(1H)-one (800 mg). LC-MS: m/e=327.1 (M+H, 100%). Rt=1.57 min. 1H-NMR (500 MHz, DMSO (d6)): 9.46 (s, 1H), 7.37 (d, 1H), 7.20 (t, 1H), 7.12 (t, 1H), 6.95 (d, 1H), 2.51 (m, 2H), 2.44-2.35 (m, 3H), 2.08 (t, 2H), 2.01 (t, 2H), 1.94 (m, 2H), 1.86 (m, 2H), 1.66 (m, 2H), 1.58 (m, 2H), 1.49-1.39 (m, 6H), 1.35-1.29 (m, 2H). The above product was suspended in water, filtration and the solid was dissolved in a diluted 1N HCl (6 ml), lyophilized to give a HCl salt 24 (723 mg). Two conformers were observed with ca. 1:2 ratios. 1H-NMR (500 MHz, DMSO-d6): 10.03 (m, 1H); 9.61, 9.57 (2s, 1H); 7.42 (d, 0.35H), 7.38 (d, 0.65H); 7.31, 7.26 (2t, 1H); 7.21, 7.16 (2t, 1H); 7.05, 7.01 (2t, 1H); 3.29 (d, 2H), 3.21 (q, 2H), 2.73 (d, 0.7H), 2.28 (d, 1.3H), 2.63-2.57 (m, 1H), 2.22-1.98 (m, 8H), 1.89-1.84 (m, 1H), 1.73-1.60 (m, 3H), 1.55-1.33 (m, 7H).

reactant | 3,4-dihydrospiro[benzo[b]azepine-5,4′-piperidin]-2(1H)-one | N1CCC2(CC1)C1=C(NC(CC2)=O)C=CC=C1 | C14H18N2O
reactant | cycloheptanone | 10 mmol, 1.12 g | C1(CCCCCC1)=O | C7H12O
reactant | sodium triacetoxyborohydride | 10 mmol, 2.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | MeOH | 1 ml | CO | CH4O
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
catalyst | titanium tetraisopropoxide | 8.8 mmol, 2.5 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 1′-cycloheptyl-3,4-dihydrospiro[benzo[b]azepine-5,4′-piperidin]-2(1H)-one | 800 mg | C1(CCCCCC1)N1CCC2(CC1)C1=C(NC(CC2)=O)C=CC=C1 | C21H30N2O
